US07314888B1
In 2 ml of methanol is dissolved 100 mg of 2-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]acetic acid. After adding 18 mg of sodium borohydride at 5-10° C., the mixture thus obtained is stirred at 50-60° C. for one hour. Then, 40 mg of sodium borohydride and 40 mg of lithium chloride are further added at ambient temperature, and the mixture thus obtained is stirred at 50-60° C. for two hours. Chloroform and water are added to the reaction mixture, pH is adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is successively washed with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. Thus, 50 mg of 2-{5-[(2,4-diisobutoxyphenyl)(hydroxy)methyl]-2-isobutoxyphenyl}-acetic acid is obtained as a colorless oily product.

reactant | 2-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]acetic acid | 100 mg | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CC(=O)O)OCC(C)C)C=CC(=C1)OCC(C)C | C27H36O6
reactant | sodium borohydride | 18 mg | [BH4-].[Na+]
reactant | sodium borohydride | 40 mg | [BH4-].[Na+]
reactant | lithium chloride | 40 mg | [Cl-].[Li+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-{5-[(2,4-diisobutoxyphenyl)(hydroxy)methyl]-2-isobutoxyphenyl}-acetic acid | 50 mg | C(C(C)C)OC1=C(C=CC(=C1)OCC(C)C)C(C=1C=CC(=C(C1)CC(=O)O)OCC(C)C)O | C27H38O6
